US07884114B2
4-Chloro-N-propyl-1-butanesulfonamide
This was prepared in an analogous manner to that disclosed for Intermediate 41, using n-propylamine (commercially available, for example, from Aldrich) instead of t-butylamine, and 4-chloro-1-butanesulfonyl chloride (prepared according to White, E. H.; Lim, H. M. J. Org. Chem. 52, 1987, 11, 2162-2166) instead of 3-chloropropane sulfonyl chloride. Yield 88%. LCMS RT=2.54 min, ES+ve m/z 214 (M+H)+.

reactant | n-propylamine | C(CC)N | C3H9N
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
reactant | 4-chloro-1-butanesulfonyl chloride | ClCCCCS(=O)(=O)Cl | C4H8Cl2O2S
product | 4-Chloro-N-propyl-1-butanesulfonamide | Yield 88% | ClCCCCS(=O)(=O)NCCC | C7H16ClNO2S
